US05604079
Preparation of 3-acetylpyridine-N-oxide
Hydrogen peroxide (20.9 ml, 0.61453 moles, Baker) and acetic acid (125 ml, Baker) were combined and stirred at room temperature (RT). The 3-acetylpyridine (50 ml, 0.40984 moles, Aldrich), distilled prior to use (94° C., 2.00 mm Hg), was added and then, the reaction mixture was stirred overnight (O/N) at 95° C. Next, the reaction mixture was cooled to RT and then, neutralized with saturated K2CO3 (400 ml). Then, 5 g of KSO3 was added to destroy the remaining hydrogen peroxide. Next, methanol (750 ml) was added and the resultant cloudy solution was filtered. The filtrate was then evaporated to dryness using a rotary evaporator. The semi-solid was extracted repeatedly with hot CH2Cl2 (4×500 ml) and combined. Next, the solvent was removed leaving approximately 44 g of a crude, pale yellow solid. The crude solid was dissolved in hot 2-propanol (150 ml) and stirred until cool in an icebath. The white solid which precipitated was collected, washed with 2-propanol (100 ml) and dried in a vacuum dessicator O/N at 50° C. The air-dried weight was 41 g. HPLC analysis of the recrystallized sample (m.p. 146°-147° C.) showed a single principal peak 96% by area.

reactant | Hydrogen peroxide | 0.61453 moles, 20.9 ml | OO | H2O2
reactant | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
reactant | 3-acetylpyridine | 0.40984 moles, 50 ml | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | K2CO3 | 400 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
product | 3-acetylpyridine-N-oxide | C(C)(=O)C=1C=[N+](C=CC1)[O-] | C7H7NO2
